US07119120B2
N-(4-Bromo-2-iodo-phenyl)-4-trifluoromethoxy-benzamide
To a cooled 30 mL vial containing a stirring bar and 4-trifluoromethoxybenzoylchloride (0.70 g, 3.12 mmol), 2-iodo-4-bromoaniline (0.837 g, 2.81 mmol) in 3 mL of anhydrous pyridine was added. The bath was then removed. The reaction solution was stirred at room temperature overnight and 50 mL of EtOAc was added. The resulting solution was poured into 100 mL of 10% aq. HCl. The layers were stirred and then the organic layer was separated and washed with water (2×50 mL), dried with Na2SO4 and concentrated, revealing the desired product. 1H-NMR (400 MHz, CDCl3): δ=7.37 (d, 8.4 Hz, 2HCF3OCCH), 7.53 (m, 1H, ICNCCH), 7.96 (d, 1.6 Hz, 1H, BrCCHCI), 8.8 (d, 8.8 Hz, 2H, CHCHCCOCF3), 8.21 (s, 1H, NH), 8.34 (d, 8.8 Hz, 1H, ICNCCHCH). MS (electrospray) 486 (MH+), 488 (MH++2).

reactant | 4-trifluoromethoxybenzoylchloride | 3.12 mmol, 0.70 g | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | 2-iodo-4-bromoaniline | 2.81 mmol, 0.837 g | IC1=C(N)C=CC(=C1)Br | C6H5BrIN
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-Bromo-2-iodo-phenyl)-4-trifluoromethoxy-benzamide | BrC1=CC(=C(C=C1)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)I | C14H8BrF3INO2
